US04581363
1,3-dihydro-3,3,6-trimethyl-7-hydroxy-furo-(3,4-c)-pyridine
Into a 3-liter reactor fitted with stirring, warming and cooling means, previously submitted to a nitrogen circulation, were poured 3.47 g (0.143 mol) of magnesium. Slowly, under stirring, there was then added 20.3 g (0.143 mol) of methyl iodide dissolved in 400 ml of distilled diethyl ether. The mixture was refluxed for 2 to 3 hours, then cooled to 10°-15° C. and 22.8 g (0.11 mol of α4, 3-o-isopropylidene pyridoxal dissolved in 600 ml of distilled diethyl ether were slowly added. The mixture was stirred for 12 hours at room temperature, and then the diethyl ether was evaporated off under reduced pressure (end of preparation of starting secondary alcohol). 450 ml of dry methylene dichloride with 30.5 g (0.142 mol) of pyridinium chlorochromate and 2.35 g (0.0285 mol) of pure and dry sodium acetate were poured all at once into the reactor and the mixture was stirred for 2 hours at room temperature, and then for some minutes, after addition of 200 ml of dry diethyl ether. After elimination of insoluble matter, the organic phase was filtered and evaporated to dryness, leading to an oily product (end of step (ii)). This product was dissolved in 400 ml of diethyl ether and treated under stirring for 12 hours at room temperature with a mixture obtained by refluxing for 2 hours 400 ml of diethyl ether, 20 g (0.14 mol) of methyl iodide and 3.45 g (0.14 mol) of magnesium. The diethyl ether was evaporated off under reduced pressure; after cooling, there were added 0.5 l of chloroform and, dropwise, under stirring, 150 ml of 2N hydrochloric acid. Stirring was maintained for 2 hours, the mixture was decanted, the precipitate washed with water, dried on anhydrous sodium sulphate, redissolved in diethyl ether, recrystallized, washed and dried (end of step (iii)). The compound thus obtained was then treated with 100 ml of concentrated hydrochloric acid at room temperature, under stirring for 12 hours. The precipitate obtained was treated twice by ethanol and recrystallized from acetone. Yield 15.9 g (67%) of a pale yellow product melting at 247° C. (Tottoli), elemental analysis of which showed good correspondence with the formula C10H13NO2HCl. The product exhibited good solubility in water at room temperature.

reactant | magnesium | 0.143 mol, 3.47 g | [Mg] | Mg
reactant | methyl iodide | 0.143 mol, 20.3 g | CI | CH3I
reactant | pyridinium chlorochromate | 0.142 mol, 30.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | methyl iodide | 0.14 mol, 20 g | CI | CH3I
reactant | magnesium | 0.14 mol, 3.45 g | [Mg] | Mg
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 600 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | methylene dichloride | 450 ml | C(Cl)Cl | CH2Cl2
product | 1,3-dihydro-3,3,6-trimethyl-7-hydroxy-furo-(3,4-c)-pyridine | CC1(OCC2=C1C=NC(=C2O)C)C | C10H13NO2
